US05952511
(RS)-1-(2,2-Diethoxyethyl)-3-((4-methylphenyl)aminocarbonylmethyl)-3-(N'-(4-methylphenyl)ureido)indolin-2-one
To a solution of 0.397 g of (RS)-1-(2,2-diethoxyethyl)-3-(N'-(4-methylphenyl)ureido)indolin-2-one in 4 ml of dry dimethyl sulfoxide was added 1 ml of a 1M solution of potassium t-butoxide in dry dimethyl sulfoxide at room temperature under a nitrogen atmosphere, followed by stirring for 30 minutes. To the mixture was added dropwise a solution of 0.228 g of N-p-tolyl-2-bromoacetamide in 2 ml of dry dimethyl sulfoxide, followed by stirring at the same temperature for 30 minutes. The reaction mixture was poured into an aqueous solution of sodium chloride and extracted with ethyl ether. The ethyl ether layer was dried over anhydrous magnesium sulfate and concentrated. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=2/1) to give 0.35 g (65%) of the title compound.

reactant | (RS)-1-(2,2-diethoxyethyl)-3-(N'-(4-methylphenyl)ureido)indolin-2-one | 0.397 g | C(C)OC(CN1C(C(C2=CC=CC=C12)NC(=O)NC1=CC=C(C=C1)C)=O)OCC | C22H27N3O4
reactant | potassium t-butoxide | CC(C)([O-])C.[K+]
reactant | N-p-tolyl-2-bromoacetamide | 0.228 g | C1(=CC=C(C=C1)NC(CBr)=O)C | C9H10BrNO
reactant | sodium chloride | [Cl-].[Na+]
solvent | dimethyl sulfoxide | 4 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 2 ml | CS(=O)C | C2H6OS
product | (RS)-1-(2,2-Diethoxyethyl)-3-((4-methylphenyl)aminocarbonylmethyl)-3-(N'-(4-methylphenyl)ureido)indolin-2-one | 0.35 g, 65% | C(C)OC(CN1C(C(C2=CC=CC=C12)(NC(=O)NC1=CC=C(C=C1)C)CC(=O)NC1=CC=C(C=C1)C)=O)OCC | C31H36N4O5
